US07470699B2
Preparation of 4-[5-Cyano-6-(2-fluoro-4-propylamino-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound A64)
4-[5-Cyano-6-(2-fluoro-4-iodo-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (250 mg, 0.48 mmol), n-propylamine (408 μL, 4.8 mmol), proline (99 mg, 0.86 mmol), copper iodide (92 mg, 0.48 mmol) and potassium carbonate (152 mg, 1.1 mmol) were mixed together in DMSO (4 mL). The reaction vessel was heated in a microwave at 80° C. for 30 minutes. Progress of the reaction was monitored by TLC and LCMS. Purification by HPLC afforded compound A64 as a white solid (80 mg, 37%). 1H NMR (CDCl3, 400 MHz) δ 9.37 (s, 1H), 8.22 (s, 1H), 6.91 (t, 1H), 6.91 (m, 2H), 5.27 (h, 1H), 4.71 (h, 1H), 3.53 (m, 2H), 3.23 (m, 2H), 2.91 (m, 2H), 1.85 (m, 2H), 1.54 (m, 4H), 1.13 (d, 6H), 0.88 (t, 3H). Exact mass calculated for C23H29FN6O3 456.51, found 457.4 (MH+).

reactant | 4-[5-Cyano-6-(2-fluoro-4-iodo-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 0.48 mmol, 250 mg | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C#N)NC1=C(C=C(C=C1)I)F | C20H21FIN5O3
reactant | n-propylamine | 4.8 mmol, 408 μL | C(CC)N | C3H9N
reactant | proline | 0.86 mmol, 99 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 1.1 mmol, 152 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
catalyst | copper iodide | 0.48 mmol, 92 mg | [Cu](I)I
product | 4-[5-Cyano-6-(2-fluoro-4-propylamino-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 80 mg, 37% | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C#N)NC1=C(C=C(C=C1)NCCC)F | C23H29FN6O3
